US06642224B1
A mixture of 2.14 g of 2′-hydroxy-4-(4-methyl-1,4-diazepan-1-yl)-6′-nitrobenzanilide, 43 ml of methanol and 467 mg of 10% palladium-carbon (wetting rate: 54.2%) was stirred in a hydrogen atmosphere of atmospheric pressure at 30° C. until the absorption of hydrogen had stopped. The catalyst was filtered out and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography using chloroform-methanol (20:1 to 10:1) to give 1.61 g of 2′-amino-6′-hydroxy-4-(4-methyl-1,4-diazepan-1-yl)benzanilide.

reactant | 2′-hydroxy-4-(4-methyl-1,4-diazepan-1-yl)-6′-nitrobenzanilide | 2.14 g | OC1=C(NC(C2=CC=C(C=C2)N2CCN(CCC2)C)=O)C(=CC=C1)[N+](=O)[O-] | C19H22N4O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 467 mg | [C].[Pd]
solvent | methanol | 43 ml | CO | CH4O
product | 2′-amino-6′-hydroxy-4-(4-methyl-1,4-diazepan-1-yl)benzanilide | 1.61 g | NC1=C(NC(C2=CC=C(C=C2)N2CCN(CCC2)C)=O)C(=CC=C1)O | C19H24N4O2
